US05153210
2-[4-[2-[(β,4-Dihydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-4H-pyran-4-one
A mixture of the sodium salt of octopamine (0.65 g), and 2-(4-acetonylphenoxymethyl)-5-hydroxy-4H-pyran-4-one (1.0 g) in methanol was treated with sodium cyanoborohydride (0.3 g) and stirred at ambient temperature for 18 hours. The solvent was evaporated in vacuo. The residue was suspended in acetone and filtered, washed with acetone and then purified by column chromatography on silica using 5% methanol:chloroform as eluent-increasing to 15% methanol:chloroform after elution of fast-running impurities. This gave 2-[4-[2-[(β,4-dihydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-4H-pyran-4-one(0.4 g) as a (50:50) mixture of diastereoisomers.

reactant | sodium | [Na] | Na
reactant | octopamine | 0.65 g | C1=CC(=CC=C1C(CN)O)O | C8H11NO2
reactant | 2-(4-acetonylphenoxymethyl)-5-hydroxy-4H-pyran-4-one | 1.0 g | C(C(=O)C)C1=CC=C(OCC=2OC=C(C(C2)=O)O)C=C1 | C15H14O5
reactant | sodium cyanoborohydride | 0.3 g | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[4-[2-[(β,4-Dihydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-4H-pyran-4-one | OC(CNC(CC1=CC=C(OCC=2OC=C(C(C2)=O)O)C=C1)C)C1=CC=C(C=C1)O | C23H25NO6
